US05294734
3.3 g (10.5 mmol) of 4-(1-acetylpiperidin-4-yl)-2-formylamino-3-hydroxy-pent-4-enoic acid ethyl ester are dissolved in 25 ml of 1,2-dichloroethane, and 0.98 ml (12.6 mmol) of thionyl bromide are added dropwise at room temperature. After 11/2 hours, 20 ml of water are added and the mixture is stirred vigorously for 15 minutes. The organic phase is separated off, washed in succession with water, N-potassium hydrogen carbonate solution and again with water, dried over sodium sulfate, filtered and concentrated by evaporation. 4-(1-acetylpiperidin-4-yl)-5-bromo-2-formylamino-pent-3-enoic acid ethyl ester is obtained in the form of a reddish-brown oil.

reactant | 4-(1-acetylpiperidin-4-yl)-2-formylamino-3-hydroxy-pent-4-enoic acid ethyl ester | 10.5 mmol, 3.3 g | C(C)OC(C(C(C(=C)C1CCN(CC1)C(C)=O)O)NC=O)=O | C15H24N2O5
reactant | thionyl bromide | 12.6 mmol, 0.98 ml | S(=O)(Br)Br | Br2OS
reactant | water | 20 ml | O | H2O
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 4-(1-acetylpiperidin-4-yl)-5-bromo-2-formylamino-pent-3-enoic acid ethyl ester | C(C)OC(C(C=C(CBr)C1CCN(CC1)C(C)=O)NC=O)=O | C15H23BrN2O4
